US06846827B1
2-(N-Allyl-N-methylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine
A mixture of 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine (0.2 g) and N-allyl-N-methylamine (0.25 ml) was stirred and heated to 75° C. for 3 hours. The mixture was cooled to ambient temperature and purified by column chromatography on silica using a 9:1 mixture of methylene chloride and methanol as eluent. The resultant oil was triturated under a mixture of isohexane and diethyl ether. There was thus obtained the title compound as a solid (0.055 g); NMR Spectrum: (DMSOd6) 2.17 (s, 3H), 2.95 (s, 3H), 3.5 (m, 4H), 3.7 (m, 4H), 4.1 (d, 2H), 5.04 (m, 2H), 5.75 (m, 1H), 5.91 (m, 1H), 7.07 (m, 1H), 7.17 (m, 2H), 7.19 (m, 1H), 7.86 (m, 1H), 7.98 (m, 1H), 8.25 (m, 1H), 8.42 (s, 1H), 10.17 (s, 1H); Mass Spectrum: M+H+ 460.

reactant | 2-chloro-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.2 g | ClC1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C21H21ClN6O2
reactant | N-allyl-N-methylamine | 0.25 ml | C(C=C)NC | C4H9N
product | 2-(N-Allyl-N-methylamino)-4-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)anilino]pyrimidine | 0.055 g | C(C=C)N(C)C1=NC=CC(=N1)NC1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)C | C25H29N7O2
